US08729068B2
A mixture of 43.0 g of methyl 4-[2-(4-{[(2-amino-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)ethyl]benzoate, 14.0 mL of triethylamine, and 215 mL of dichloromethane was added dropwise to a mixture of 24.8 g of 3-(chlorosulfonyl)benzoyl chloride and 430 mL of dichloromethane under ice-cooling, followed by stirring for 2 hours at room temperature. The reaction mixture was concentrated under reduced pressure and the residue was washed with ethanol to obtain 59.5 g of methyl 4-[2-(4-{[(2-{[3-(chlorosulfonyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)ethyl]benzoate as a yellow solid.

reactant | methyl 4-[2-(4-{[(2-amino-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)ethyl]benzoate | 43.0 g | NC=1SC2=C(C1C(=O)NC1=CC=C(C=C1)CCC1=CC=C(C(=O)OC)C=C1)CCCC2 | C25H26N2O3S
reactant | triethylamine | 14.0 mL | C(C)N(CC)CC | C6H15N
reactant | 3-(chlorosulfonyl)benzoyl chloride | 24.8 g | ClS(=O)(=O)C=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O3S
solvent | dichloromethane | 430 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 215 mL | ClCCl | CH2Cl2
product | methyl 4-[2-(4-{[(2-{[3-(chlorosulfonyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)ethyl]benzoate | 59.5 g | ClS(=O)(=O)C=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1 | C32H29ClN2O6S2
